US04319914
Preparation of 5,5,7-Trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl Isocyanate Dimer
A saturated solution of phosgene in ethyl acetate (200 ml) and 2-amino-5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazole (6.0 grams) were charged into a glass reaction vessel equipped with a mechanical stirrer and reflux condenser. The reaction mixture was heated at reflux for a period of about 5 hours. After this time the reaction was stripped of solvent and unreacted starting materials to yield the desired product 5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl-isocyanate dimer as a brown crystalline solid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazole | 6.0 grams | NC=1SC2=C(N1)CC(CC2C)(C)C | C10H16N2S
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5,5,7-trimethyl-4,5,6,7-tetrahydrobenzothiazol-2-yl-isocyanate | CC1(CC(C2=C(N=C(S2)N=C=O)C1)C)C | C11H14N2OS
